US08563565B2
Synthesis of 2-ethoxy-4-iodo-3,5-dimethylpyridine
A 20% solution of sodium ethoxide in ethanol (123 mL) was added to a solution of 2-fluoro-4-iodo-3,5-dimethylpyridine obtained in Preparation Example 29(2) (400 mg) in THF (5 mL), and the mixed solution was stirred at room temperature overnight. The reaction mixture was cooled at 0° C., and MTBE (20 mL) and water (20 mL) were then added. The organic layer was separated. The organic layer was washed with brine. The combined aqueous layers were extracted with MTBE. The combined organic layers were dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to give the title compound (423.8 mg).

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 2-fluoro-4-iodo-3,5-dimethylpyridine | FC1=NC=C(C(=C1C)I)C | C7H7FIN
reactant | MTBE | 20 mL | CC(C)(C)OC | C5H12O
reactant | water | 20 mL | O | H2O
solvent | ethanol | 123 mL | C(C)O | C2H6O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-ethoxy-4-iodo-3,5-dimethylpyridine | 423.8 mg | C(C)OC1=NC=C(C(=C1C)I)C | C9H12INO
